US07709475B2
5.93 mL of 4-chloro-2-methylthiopyrimidine was dissolved in 50 mL of diethyl ether, and 100 mL of a 1 M diethyl ether solution of methyllithium was gradually added to the solution at −78° C. The reaction solution was stirred at 0° C. for 1 hour, and then a solution prepared by mixing 2.3 mL of water and 15 mL of tetrahydrofuran was added to the reaction mixture. The reaction mixture was stirred at the same temperature for 10 minutes, and then 50 mL of a tetrahydrofuran solution containing 13.7 g of 2,3-dichloro-5,6-dicyanohydroquinone was added to the reaction solution. The reaction solution was stirred at the same temperature for 1 hour, and then 100 mL of a 1 N aqueous solution of sodium hydroxide was added to the reaction solution. The obtained reaction solution was extracted with hexane, and the organic phase was washed with a 1 N aqueous solution of sodium hydroxide and saturated brine. The resultant solution was dried over magnesium sulfate and filtered, and the filtrate was concentrated. The obtained residue was purified by silica gel column chromatography to obtain 5.1 g of 4-chloro-6-methyl-2-methylthiopyrimidine product [1-9] as a pale yellow solid.

reactant | 4-chloro-2-methylthiopyrimidine | 5.93 mL | ClC1=NC(=NC=C1)SC | C5H5ClN2S
reactant | methyllithium | C[Li]
reactant | 2,3-dichloro-5,6-dicyanohydroquinone | 13.7 g | ClC1=C(O)C(=C(C(=C1Cl)O)C#N)C#N | C8H2Cl2N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 1 M | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | 2.3 mL | O | H2O
product | 4-chloro-6-methyl-2-methylthiopyrimidine | 5.1 g | ClC1=NC(=NC(=C1)C)SC | C6H7ClN2S
